US07943619B2
6-[3-(3-Fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-pyridazine-3-carboxylic acid (tetrahydro-pyran-4-yl)-amide
A solution of trimethylaluminium (2 M in toluene, 800 μL, 1.6 mmol) was added dropwise (exothermic) to a solution of 4-aminotetrahydrofuran (162 mg, 1.6 mmol) in dioxane (10 mL) and the resulting mixture was stirred at room temperature for 1 h. Then a solution of 6-[3-(3-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-pyridazine-3-carboxylic acid ethyl ester (143 mg, 0.4 mmol) in dioxane (5 mL) was added. The resulting mixture was then heated at 85-95° C. for 4 h, cooled to room temperature, poured into a sodium potassium tartrate solution and extracted with ethyl acetate which was then washed with brine, dried over sodium sulfate and evaporated. Purification by chromatography (SiO2, heptane:ethyl acetate=100:0 to 0:100) afforded the title compound (146 mg, 89%) which was obtained as an off white solid. MS: m/e=413.1 [M+H]−.

reactant | trimethylaluminium | 1.6 mmol, 2 M, 800 μL | C[Al](C)C
reactant | 4-aminotetrahydrofuran | 1.6 mmol, 162 mg | NC1CCOC1 | C4H9NO
reactant | 6-[3-(3-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-pyridazine-3-carboxylic acid ethyl ester | 0.4 mmol, 143 mg | C(C)OC(=O)C=1N=NC(=CC1)OCC=1C(=NOC1C)C1=CC(=CC=C1)F | C18H16FN3O4
reactant | sodium potassium tartrate | C(=O)([O-])C(O)C(O)C(=O)[O-].[K+].[Na+]
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 6-[3-(3-Fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-pyridazine-3-carboxylic acid (tetrahydro-pyran-4-yl)-amide | 146 mg, 89% | O1CCC(CC1)NC(=O)C=1N=NC(=CC1)OCC=1C(=NOC1C)C1=CC(=CC=C1)F | C21H21FN4O4
